US05382584
N-(4,5-diphenyloxazolyl)methyl piperazine (XXIV)
A mixture of 4,5-diphenyl-2-bromomethyloxazole (X; 20 g, 0.063 moles) and excess piperazine (10 mol equivalent) in 400 ml of absolute ethanol was stirred overnight at room temperature. The reaction mixture was evaporated and the residue was taken up in 4X200 ml of methylene chloride and washed several times with water and brine. The organic layer was dried over Na2SO4, evaporated and the product was obtained as a yellow solid (19.8 g, 95%) after passing through a silica gel column and eluting with a mixture of methanol/chloroform (1:9). This procedure is amenable for large scale synthesis. MS (DCl) MH+ 320.

reactant | 4,5-diphenyl-2-bromomethyloxazole | 0.063 moles, 20 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CBr | C16H12BrNO
reactant | piperazine | 10 mol | N1CCNCC1 | C4H10N2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | N-(4,5-diphenyloxazolyl)methyl piperazine | 19.8 g, 95% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN1CCNCC1 | C20H21N3O
